US07687435B2
2.4) Methyl 3-(N-benzyl-N-formylamino)-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-phenylpropionate
1.4 g (0.0052 mol) of methyl 2-amino-3-(N-benzyl-N-formylamino)-3-phenylpropionate were dissolved in methylene chloride, and 1.0 g (0.0052 mol) of 4-fluoro-2-trifluoromethylbenzoic acid and 1.0 g (0.010 mol) of triethylamine in THF were added. At 0-5° C., 1.3 g (0.0052 mol) of bis(2-oxo-3-oxazolidinyl)phosphoryl chloride were added. After 2 h at 0° C., the mixture was stirred at room temperature for 15 h. The solvents were removed and the residue was taken up in ethyl acetate, washed and dried. Chromatographic purification (silica gel column, cyclohexane/ethyl acetate) gave 0.65 g of the title compound as a colorless oil.

reactant | methyl 2-amino-3-(N-benzyl-N-formylamino)-3-phenylpropionate | 0.0052 mol, 1.4 g | NC(C(=O)OC)C(C1=CC=CC=C1)N(C=O)CC1=CC=CC=C1 | C18H20N2O3
reactant | 4-fluoro-2-trifluoromethylbenzoic acid | 0.0052 mol, 1.0 g | FC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | triethylamine | 0.010 mol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphoryl chloride | 0.0052 mol, 1.3 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 3-(N-benzyl-N-formylamino)-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-phenylpropionate | 0.65 g | C(C1=CC=CC=C1)N(C=O)C(C(C(=O)OC)NC(C1=C(C=C(C=C1)F)C(F)(F)F)=O)C1=CC=CC=C1 | C26H22F4N2O4
